US06964961B2
(3S)-[7-(2,3-Dimethyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone
The title compound was prepared from (3S)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone and 2,3-dimethyl-1H-indol-5-ylamine by a procedure analogous to Example 99. MS: 421.2 (MH+); HPLC Rf: 4.80 min.; HPLC purity: 99%.

reactant | (3S)-(7-chloro-thieno[3,2-b]pyridin-2-yl)-(3-methoxy-pyrrolidin-1-yl)-methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@H](CC2)OC | C13H13ClN2O2S
reactant | 2,3-dimethyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1C)N | C10H12N2
product | (3S)-[7-(2,3-Dimethyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone | CC=1NC2=CC=C(C=C2C1C)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2C[C@H](CC2)OC | C23H24N4O2S
